US03932484
The Hydrogenation of Ethyl Cyclododecadienecarboxylate
The major ester product of hydrogenation is a mixture of ethyl cyclododecenecarboxylate and ethyl cyclododecanecarboxylate.

reactant | ethyl cyclododecenecarboxylate | C1(=CCCCCCCCCCC1)C(=O)OCC | C15H26O2
reactant | ethyl cyclododecanecarboxylate | C1(CCCCCCCCCCC1)C(=O)OCC | C15H28O2
product | Ethyl Cyclododecadienecarboxylate | C1(=CC=CCCCCCCCC1)C(=O)OCC | C15H24O2
